US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(2-chlorophenyl)urea dihydrochloride monohydrate
The procedure described in Example 29 was followed, using 2-chlorophenyl isocyanate (1.54 g; 10 mmole), 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine trihydrochloride (3.77 g; 10 mmole), methylene chloride (50 ml) and triethylamine (4.3 ml; 31 mmole). Recrystallization from methanol provided the title compound (2.63 g; 53% yield) as colorless crystals, m.p. 222°-224° C.

reactant | 2-chlorophenyl isocyanate | 10 mmole, 1.54 g | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
reactant | 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine trihydrochloride | 10 mmole, 3.77 g | Cl.Cl.Cl.NCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl
reactant | triethylamine | 31 mmole, 4.3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(2-chlorophenyl)urea dihydrochloride monohydrate | 2.63 g, 53% yield | O.Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NC2=C(C=CC=C2)Cl)C=C1 | InChI=1S/C21H26Cl2N4O.2ClH.H2O/c22-18-8-6-17(7-9-18)16-27-14-12-26(13-15-27)11-3-10-24-21(28)25-20-5-2-1-4-19(20)23;;;/h1-2,4-9H,3,10-16H2,(H2,24,25,28);2*1H;1H2
